US05686610
1-[5-Aminoindole-2-carbonyl]-4-[3-(1,1-dimethylpropylamino)-2-pyridinyl]piperazine
To a solution of 1-[5-nitroindole-2-carbonyl]-4-[3-(1,1-dimethylpropylamino)-2-pyridinyl]piperazine (PREPARATION 67, 1.00 g) in dimethylformamide/methanol (200 ml, 50/50) under nitrogen is added palladium on carbon (10%, 250 mg). The mixture is put under hydrogen (balloon) for 4 hr and nitrogen for 17 hr, filtered through a pad of celite, and concentrated under reduced pressure to give the title compound, NMR (CDCl3) 9.25, 7.66, 7.24, 7.06, 6.88, 6.76, 6.63, 4.58, 4.05, 3.35, 3.14, 1.73, 1.35 and 0.91.

reactant | 1-[5-nitroindole-2-carbonyl]-4-[3-(1,1-dimethylpropylamino)-2-pyridinyl]piperazine | 1.00 g | [N+](=O)([O-])C=1C=C2C=C(NC2=CC1)C(=O)N1CCN(CC1)C1=NC=CC=C1NC(CC)(C)C | C23H28N6O3
solvent | dimethylformamide methanol | 200 ml | CN(C=O)C.CO
catalyst | palladium on carbon | 250 mg | [Pd] | Pd
product | 1-[5-Aminoindole-2-carbonyl]-4-[3-(1,1-dimethylpropylamino)-2-pyridinyl]piperazine | NC=1C=C2C=C(NC2=CC1)C(=O)N1CCN(CC1)C1=NC=CC=C1NC(CC)(C)C | C23H30N6O
